US07919498B2
Prepared according to Procedure B using 2-(2-fluorophenyl)-8-methylquinoline-3-carbaldehyde (0.725 g, 2.73 mmol), and sodium borohydride (0.155 g, 4.1 mmol, 1.5 eq) in THF (15 mL). (2-(2-fluorophenyl)-8-methylquinolin-3-yl)methanol was obtained as a yellow solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.46 (1 H, s), 7.90 (1 H, d, J=7.9 Hz), 7.63 (1 H, d, J=6.7 Hz), 7.50-7.60 (3 H, m), 7.38 (1 H, d, J=7.9 Hz), 7.35-7.37 (1 H, m), 5.42 (1 H, t, J=5.5 Hz), 4.50 (2 H, d, J=5.5 Hz), 2.69 (3 H, s) Mass Spectrum (ESI) m/e=268.1 (M+1)

reactant | 2-(2-fluorophenyl)-8-methylquinoline-3-carbaldehyde | 2.73 mmol, 0.725 g | FC1=C(C=CC=C1)C1=NC2=C(C=CC=C2C=C1C=O)C | C17H12FNO
reactant | sodium borohydride | 4.1 mmol, 0.155 g, 1.5 eq | [BH4-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (2-(2-fluorophenyl)-8-methylquinolin-3-yl)methanol | FC1=C(C=CC=C1)C1=NC2=C(C=CC=C2C=C1CO)C | C17H14FNO
